US05430153
3-Acetyl-8-fluoro-4-(1-methoxy-2-propylamino)-2-quinolinone (249)
3-Acetyl-8-fluoro-4-methylsulfoxy-2-quinolinone (2.67g, 0.01 mol) and 1-methoxy-2-propylamine(0.88g, 0.01 mol) were used, but the reaction was carried out as the above process of example 37 to obtain the desired product (2.53g, yield: 87%).

reactant | 3-Acetyl-8-fluoro-4-methylsulfoxy-2-quinolinone | 0.01 mol, 2.67g | C(C)(=O)C=1C(NC2=C(C=CC(=C2C1C)OS(=O)(=O)O)F)=O | C12H10FNO6S
reactant | 1-methoxy-2-propylamine | 0.01 mol, 0.88g | COCC(C)N | C4H11NO
product | 3-Acetyl-8-fluoro-4-(1-methoxy-2-propylamino)-2-quinolinone | 2.53g, yield: 87% | C(C)(=O)C=1C(NC2=C(C=CC=C2C1NC(COC)C)F)=O | C15H17FN2O3
